US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-morpholin4-ylethyl)amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 2-morpholin-4-ylethylamine. The product was purified by chromatography on silica gel eluting with methanol/dichloromethane (1:19) to give the title compound as a yellow solid.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-morpholin-4-ylethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-morpholin4-ylethyl)amide | N1(CCOCC1)CCNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C14H17ClN4O2
